US04480095
To a mixture of 70 grams of 5-methyl-2,6,8,9-tetraethyl-1,3,7-triazabicyclo (3,3,1) non-3-ene, 0.5 grams of sodium hydroxide, and 190 grams of ethanol was added, with stirring, over a 1/2 hour period 9 grams of sodium borohydride. The mixture was stirred for 20 hours at ambient temperature. The ethanol was removed under diminished pressure and the resulting product was added to water and extracted with ether. The ethereal solution, after drying over anh. MgSO4, was evaporated under diminished pressure to yield 64.2 grams of 5-(2-azapentyl)-5-methyl-2,4,6-triethylhexahydropyrimidine, b.p. 138°-150° C./20 torr.

reactant | 5-methyl-2,6,8,9-tetraethyl-1,3,7-triazabicyclo (3,3,1) non-3-ene | 70 grams | CC12C=NC(N(C(NC1CC)CC)C2CC)CC | C15H29N3
reactant | sodium borohydride | 9 grams | [BH4-].[Na+]
catalyst | sodium hydroxide | 0.5 grams | [OH-].[Na+]
solvent | ethanol | 190 grams | C(C)O | C2H6O
product | 5-(2-azapentyl)-5-methyl-2,4,6-triethylhexahydropyrimidine | 64.2 grams | C(NCCC)C1(C(NC(NC1CC)CC)CC)C | C15H33N3
